US05089504
3-Butyryl-4-chloro-8-vinylquinoline (20.0 g, 77 mmol) and 4-amino-m-cresol (9.5 g, 77 mmol) were heated together under reflux in 1,4-dioxan (150 ml) for 2.5 hours. The solvent was evaporated and the residue was dissolved in dichloromethane, washed with water, 2M hydrochloric acid, sodium hydrogen carbonate solution and brine. The solution was dried (anhyd. MgSO4), filtered and evaporated to an oil which was chromatographed (silica gel, 1% methanol in dichloromethane) to give 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-vinylquinoline as orange crystals (9.0 g, 32%) m.p. 150°-2°.

reactant | 3-Butyryl-4-chloro-8-vinylquinoline | 77 mmol, 20.0 g | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1Cl)C=C | C15H14ClNO
reactant | 4-amino-m-cresol | 77 mmol, 9.5 g | NC=1C(=CC(=CC1)O)C | C7H9NO
solvent | 1,4-dioxan | 150 ml | O1CCOCC1 | C4H8O2
product | 3-butyryl-4-(4-hydroxy-2-methylphenylamino)-8-vinylquinoline | 9.0 g, 32% | C(CCC)(=O)C=1C=NC2=C(C=CC=C2C1NC1=C(C=C(C=C1)O)C)C=C | C22H22N2O2
